US04209620
B. 8,9,10,11-Tetrahydro-3-(1H-tetrazol-5-yl)-4H-pyrimido-[2,1-a]isoquinol-4-one
Aluminum chloride (2.05 g., 0.0154 mole) was added to cold (-30° C.) tetrahydrofuran (75 ml.). Sodium azide was added and the mixture heated under reflux for 40 minutes. Ethyl 2-cyano-3-(5,6,7,8-tetrahydro-1-isoquinolylamino)-acrylate (3.33 g., 0.0123 mole) was added and the mixture heated under reflux for 20 hours. The cooled mixture was diluted with water (100 ml.) and acidified with concentrated hydrochloric acid. The precipitate was collected, washed with water, dried and recrystallized from 2-methoxyethanol to give the title compound (0.625 g., 19%), m.p. 290°-292° C. (decomp.).

reactant | Aluminum chloride | 0.0154 mole, 2.05 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | Ethyl 2-cyano-3-(5,6,7,8-tetrahydro-1-isoquinolylamino)-acrylate | 0.0123 mole, 3.33 g | C(#N)C(C(=O)OCC)=CNC1=NC=CC=2CCCCC12 | C15H17N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 8,9,10,11-Tetrahydro-3-(1H-tetrazol-5-yl)-4H-pyrimido-[2,1-a]isoquinol-4-one | 0.625 g, 19% | N1N=NN=C1C1=CN=C2N(C=CC=3CCCCC23)C1=O | C13H12N6O
